US06110929
7-Methyl-3-nitro-4-quinolinol (11.8 g, 58 mmol), methanol (about 300 mL), ammonium hydroxide (50 mL), and palladium on carbon (1 g of 10%) were combined. The mixture was placed on a Parr apparatus under a 35-40 psi (2.4-2.8 Kg/cm2) hydrogen atmosphere for about 1 hour. The reaction mixture was filtered through a layer of Celite® filter agent and the filter cake was rinsed well with methanol. The filtrate was treated with charcoal and then concentrated under vacuum to provide a fluffy pale green solid. This material was triturated with acetonitrile to provide 8.5 g of 3-amino-7-methyl-4-quinolinol.

reactant | 7-Methyl-3-nitro-4-quinolinol | 58 mmol, 11.8 g | CC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])O | C10H8N2O3
reactant | ammonium hydroxide | 50 mL | [OH-].[NH4+]
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 1 g | [Pd] | Pd
solvent | methanol | about 300 mL | CO | CH4O
product | 3-amino-7-methyl-4-quinolinol | 8.5 g | NC=1C=NC2=CC(=CC=C2C1O)C | C10H10N2O
